### PR TITLE
Prove termination for `isCanonicalValue`

### PR DESCRIPTION
**Pull request by joscoh**
Removes `partial def`, instead proving termination for `isCanonicalValue`, as discussed in comments for #167

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Lambda/Factory.lean [hunk 1]
```diff
@@ -217,6 +219,38 @@ def Factory.callOfLFunc (F : @Factory IDMeta) (e : (LExpr LMonoTy IDMeta)) : Opt
...
+theorem getLFuncCall.goSize {e: LExpr LMonoTy IDMeta} {op args acc} : getLFuncCall.go e acc = (op, args) →
+op.sizeOf + List.sum (args.map LExpr.sizeOf) <= e.sizeOf + List.sum (acc.map LExpr.sizeOf) := by
+  fun_induction go generalizing op args
+  case case1 acc e' arg1 arg2 IH =>
+    intros Hgo; specialize (IH Hgo); simp_all; omega
+  case case2 acc fn fnty arg1 =>
+    simp_all; intros op_eq args_eq; subst op args; simp; omega
+  case case3 op' args' _ _ => intros Hop; cases Hop; omega
+
+theorem LExpr.sizeOfPos (e: LExpr LMonoTy IDMeta): 0 < sizeOf e := by
```
Comment (shigoel) [inline Strata/DL/Lambda/Factory.lean]: FWIW, we've tried to use the snake case convention for theorems. We've not been very vigilant about this so far, but perhaps we should start sometime.

Also see https://github.com/strata-org/Strata/blob/main/CONTRIBUTING.md#syntactic-style-guidelines

Comment (joscoh) [reply Strata/DL/Lambda/Factory.lean]: Thanks, fixed
